US04401816
N-[(4,6-Dimethylpyrimidin-2-yl)aminocarbonyl]-1-pyrrolidinesulfonamide
To a methylene chloride solution of [(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]sulfamoyl chloride, prepared as in Example 1, was added dropwise 2.9 g of pyrrolidine while maintaining the temperature at 20° C. The mixture was stirred for 16 hours and added to 50 ml of ice-water. Enough methylene chloride was added to dissolve the solids present and the methylene chloride solution was washed twice with equal volumes of water, dried over magnesium sulfate, filtered and evaporated in-vacuo. The residue, m.p. 180°-181° C., showed absorption peaks by infrared spectroscopy at 1690, 1605 and 1550 cm-1 and Nuclear Resonance Spectroscopy (60 MC) at 2.02 δ (mult.) and 3.64 δ (mult.) for the pyrrolidine hydrogens, 2.6 δ (singlet) for CH3 and 6.85 δpyrimidine H with integration ratios of 4:4:6:1, consistent for the desired structure.

reactant | [(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]sulfamoyl chloride | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)Cl | C7H9ClN4O3S
reactant | pyrrolidine | 2.9 g | N1CCCC1 | C4H9N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[(4,6-Dimethylpyrimidin-2-yl)aminocarbonyl]-1-pyrrolidinesulfonamide | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)N1CCCC1 | C11H17N5O3S
